US03937838
c. 3,5-Dibenzyloxy-benzoyl-chloride
167 g of 3,5-dibenzyloxybenzoic acid and 400 ml of redistilled thionyl chloride were refluxed on an oil bath for 1 hour. Excess thionyl chloride was distilled off at reduced pressure, and the remaining mass crystallized. The product was recrystallized from petroleum ether (B.p., 60°-85°C.) : M.P. 73°-74°C.

reactant | 3,5-dibenzyloxybenzoic acid | 167 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C21H18O4
reactant | thionyl chloride | 400 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,5-Dibenzyloxy-benzoyl-chloride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=C(C1)OCC1=CC=CC=C1 | C21H17ClO3
